US09023854B2
1.4 Phenyl [5-chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]carbamate
0.83 ml (6.6 mmol) of phenyl chloroformate was slowly added dropwise to a solution, cooled to 0° C., of 2.57 g (5.1 mmol) of 3-amino-5-chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one in 10 ml of dichloromethane and 4.1 ml of pyridine. The reaction mixture was then stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and extracted with water. The organic phase was washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in a little dichloromethane, and six times the volume of diisopropyl ether were added. The resulting precipitate was filtered off, washed with diisopropyl ether and dried in vacuo. 3.01 g of the title compound were obtained as a white solid.

reactant | phenyl chloroformate | 6.6 mmol, 0.83 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-amino-5-chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-1,3-dihydroindol-2-one | 5.1 mmol, 2.57 g | NC1(C(N(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)C=1C(=NC=CC1)OCC | C23H22ClN3O6S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 4.1 ml | N1=CC=CC=C1 | C5H5N
product | Phenyl [5-chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]carbamate | 3.01 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)(C=1C(=NC=CC1)OCC)NC(OC1=CC=CC=C1)=O | C30H26ClN3O8S
